US05025025
A solution of 0.117 g of methyl 8-(p-chlorophenylsul- fonamido)-4-[2-(1-imidazolyl)ethyl]-octanoate in 3 mL methanol is mixed with 0.55 mL 1N sodium hydroxide. The mixture is heated at 50° for 4 hours. The reaction mixture is neutralized with 0.55 mL 1N hydrochloric acid and the solvent is evaporated. The residue is triturated with methylene chloride and the organic layer evaporated to dryness. The yellow oil is triturated with ether to obtain 8-(p-chlorophenylsulfonamido)-4-[2-(1-imidazolyl)ethyl]-octanoic acid as a crystalline solid, NMR (CDCl3): delta 7.82 (d,2H), 7.45 (d,2H), 4.15 (m,2H), 2.35 (t,2H).

reactant | methyl 8-(p-chlorophenylsul- fonamido)-4-[2-(1-imidazolyl)ethyl]-octanoate | 0.117 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCN1C=NC=C1 | C20H28ClN3O4S
reactant | sodium hydroxide | 1N, 0.55 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 0.55 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 8-(p-chlorophenylsulfonamido)-4-[2-(1-imidazolyl)ethyl]-octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)O)CCN1C=NC=C1 | C19H26ClN3O4S
